US07378418B2
244G. Preparation of 3-Chloro-5-(4-chlorophenyl)-4-(pyridin-4-yl)pyridazine
A mixture of 5-(4-chlorophenyl)-4-(pyridin-4-yl)pyridazin-3(2H)-one (5.1 g, 18.0 mmol) and POCl3 (20 mL) was stirred at 80° C. for 2 h. The reaction mixture was cooled to RT and the POCl3 was removed by rotary evaporator to obtain a gum. This gum was cooled in an ice bath and water (50 mL) was added. The pH of this mixture was adjusted to 6 with aqueous NaHCO3. The resulting mixture was extracted with EtOAc (2×75 mL). The combined organic layers were washed with water (2×50 mL) followed by saturated aqueous NaCl (2×25 mL). The organic layer was dried over MgSO4 and filtered through a silica gel pad (˜20 g). Upon evaporation of the solvents under reduced pressure, the title compound, 3-chloro-5-(4-chlorophenyl)-4-(pyridin-4-yl)pyridazine, (5.1 g, 94%) was obtained as a white solid. HPLC: 2.01 min; MS, M+H=302. 1H NMR (CDCl3, 500 MHz): δ 9.08 (1H, s), 8.56 (2H, d, J=5.0 Hz), 7.21 (2H, d, J=10.0 Hz), 7.09 (2H, d, J=5.0 Hz), 7.01 (2H, J=10.0 Hz).

reactant | 5-(4-chlorophenyl)-4-(pyridin-4-yl)pyridazin-3(2H)-one | 18.0 mmol, 5.1 g | ClC1=CC=C(C=C1)C1=C(C(NN=C1)=O)C1=CC=NC=C1 | C15H10ClN3O
reactant | POCl3 | 20 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | water | 50 mL | O | H2O
product | 3-chloro-5-(4-chlorophenyl)-4-(pyridin-4-yl)pyridazine | 5.1 g, 94% | ClC=1N=NC=C(C1C1=CC=NC=C1)C1=CC=C(C=C1)Cl | C15H9Cl2N3
